US07452911B2
3.62e 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole hydriodide
Prepared according to general working method I from 5-iodo-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole (230 mg, 0.67 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (144 mg, 0.67 mmol).

reactant | 5-iodo-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 0.67 mmol, 230 mg | IC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C13H16IN3
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.67 mmol, 144 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole hydriodide | I.ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | InChI=1S/C26H23ClN4.HI/c27-24-8-5-21(6-9-24)22-7-11-25(28-18-22)10-3-20-4-12-26-23(17-20)19-29-31(26)16-15-30-13-1-2-14-30;/h4-9,11-12,17-19H,1-2,13-16H2;1H
